US08003649B2
DIPEA (2.348 mL, 13.48 mmol) was added to 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine (2 g, 8.99 mmol) and ethyl 4-(piperazin-1-yl)benzoate (2.316 g, 9.89 mmol, CAS 80518-57-6) in DMF (20 mL). The resulting solution was stirred at 80° C. for 2 hours. The reaction mixture was cooled to room temperature, then evaporated to dryness and redissolved in DCM (150 mL) and washed with water (100 mL). The organic layer was dried over MgSO4, filtered and evaporated to afford crude product which was triturated with ether. The solid was collected by filtration and dried under vacuum to give ethyl 4-[4-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazin-1-yl]benzoate (3.40 g, 90%) as a solid.

reactant | DIPEA | 13.48 mmol, 2.348 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 6-chloro-3-(trifluoromethyl)-[1,2,4]triazolo[4,3-b]pyridazine | 8.99 mmol, 2 g | ClC=1C=CC=2N(N1)C(=NN2)C(F)(F)F | C6H2ClF3N4
reactant | ethyl 4-(piperazin-1-yl)benzoate | 9.89 mmol, 2.316 g | N1(CCNCC1)C1=CC=C(C(=O)OCC)C=C1 | C13H18N2O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | ethyl 4-[4-[3-(trifluoromethyl)[1,2,4]triazolo[4,3-b]pyridazin-6-yl]piperazin-1-yl]benzoate | 3.40 g, 90% | FC(C1=NN=C2N1N=C(C=C2)N2CCN(CC2)C2=CC=C(C(=O)OCC)C=C2)(F)F | C19H19F3N6O2
